US05212320
A solution of 4-[3-(3-hydroxybenzoyl)indol-1-yl]butyric acid (500 mg) in N,N-dimethylformamide (5 ml) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 136 mg) in N,N-dimethylformamide (10 ml) at 25° . The mixture was stirred at 25° C. for 1 hour, and a solution of bis (4-isobutylphenyl)bromomethane (1.11 g) in tetrahydrofuran (10 ml) was added at 0° C. After stirred at 25° C. overnight, the mixture was poured into a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (20 g) eluting with 2% methanol in chloroform to give 4-[3-[3-[bis(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyric acid (120 mg) as colorless crystals.

reactant | 4-[3-(3-hydroxybenzoyl)indol-1-yl]butyric acid | 500 mg | OC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H17NO4
reactant | sodium hydride | 136 mg | [H-].[Na+]
reactant | bis (4-isobutylphenyl)bromomethane | 1.11 g | C(C(C)C)C1=CC=C(C=C1)C(Br)C1=CC=C(C=C1)CC(C)C | C21H27Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-[3-[bis(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyric acid | 120 mg | C(C(C)C)C1=CC=C(C=C1)C(OC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1)C1=CC=C(C=C1)CC(C)C | C40H43NO4
